US07968572B2
2,2,5-trimethyl-1,3-dioxolane-4-carboxylic acid
To a solution of methyl 2,2,5-trimethyl-1,3-dioxolane-4-carboxylate (1 mL) in tetrahydrofuran (10 mL) was added 1N aqueous lithium hydroxide (10 mL) and the mixture was stirred at room temperature for an hour. The reaction mixture was poured into iced 10% citric acid, then extracted with ethyl acetate. The obtained organic layer was washed with brine, dried and concentrated to give the title compound (425 mg) having the following physical data.

reactant | methyl 2,2,5-trimethyl-1,3-dioxolane-4-carboxylate | 1 mL | CC1(OC(C(O1)C(=O)OC)C)C | C8H14O4
reactant | lithium hydroxide | 1N, 10 mL | [OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2,5-trimethyl-1,3-dioxolane-4-carboxylic acid | 425 mg | CC1(OC(C(O1)C(=O)O)C)C | C7H12O4
